US05530019
The procedure of Ex. 16 was repeated except that ethyl 4-[3-(3,7-dimethyl-6-octenoyl)-1-indolyl]butyrate obtained in Ex. 29 was used in place of ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate to give 4-[3-(3,7-dimethyl-6-octenoyl)-1-indolyl]butyric acid as an oil.

reactant | ethyl 4-[3-(3,7-dimethyl-6-octenoyl)-1-indolyl]butyrate | CC(CC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC=C(C)C | C24H33NO3
reactant | ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
product | 4-[3-(3,7-dimethyl-6-octenoyl)-1-indolyl]butyric acid | CC(CC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O)CCC=C(C)C | C22H29NO3
